US07091228B2
In a 8-mL screw-cap vial, a mixture of methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate (60 mg, 0.19 mmol) and 2chloro-1,3-benzothiazole (40 mg, 0.23 mmol) in 3 mL n-butanol were heated at 90° C. overnight. The formation of methyl 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoate was monitored by LC-MS. The solvent was removed under reduced pressure. The residue was dissolved in 2 mL tetrahydrofuran/dioxane (1:1), and 3 equivalents of 1 N aqueous sodium hydroxide was added to the solution. The mixture was shaken at rt overnight and then at 50° C. for 2 h. The progress of the hydrolysis reaction was monitored by LC-MS. A solution of 1N aqueous HCl (3.1 equivalents) was then added to the mixture, and the solvent was removed under reduced pressure. The residue was redissolved in 2 mL methanol and a minimum amount of DMF, and the product was isolated and purified by preparative reverse-phase HPLC (water/acetonitrile gradient, containing 0.1% TFA) to give 40 mg of 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid (Yield: 45%). 1H NMR (400 MHz, DMSO-d6) δ 11.90 (bs, 1 H), 10.65 (s, 1 H), 8.00 (d, 2 H), 7.90 (d, 2 H), 7.80 (m, 5 H), 7.60 (d, 1 H), 7.35 (t, 1 H), 7.20 (t, 1 H), 3.30 (s, 2 H), 1.10 (s, 6 H); LC-MS m/z 431.2 (MH+), ret. time 3.40 min.

reactant | methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate | 0.19 mmol, 60 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C19H21NO3
reactant | 2chloro-1,3-benzothiazole | 0.23 mmol, 40 mg | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | methyl 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoate | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)OC)(C)C)=O | C26H24N2O3S
reactant | sodium hydroxide | 1 N, 3 equivalents | [OH-].[Na+]
reactant | HCl | 1N, 3.1 equivalents | Cl | ClH
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid | 40 mg, Yield: 45% | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)(C)C)=O | C25H22N2O3S
